US07790723B2
Analogously to Example 2, reaction of 1.1 g of 3-(3-ethoxy-4-methoxyphenyl)-5,6-dihydro-4H-pyridazine with 1.2 g of 4-methyl-2-pyridin-2-ylthiazole-5-carbonyl chloride, hydrochloride (“BB”) gives the compound 1-[3-(3-ethoxy-4-methoxyphenyl)-5,6-dihydro-4H-pyridazin-1-yl]-1-(4-methyl-2-pyridin-2-ylthiazol-5-yl)methanone (1.5 g).

reactant | 3-(3-ethoxy-4-methoxyphenyl)-5,6-dihydro-4H-pyridazine | 1.1 g | C(C)OC=1C=C(C=CC1OC)C1=NNCCC1 | C13H18N2O2
reactant | 4-methyl-2-pyridin-2-ylthiazole-5-carbonyl chloride, hydrochloride | 1.2 g | Cl.CC=1N=C(SC1C(=O)Cl)C1=NC=CC=C1
product | 1-[3-(3-ethoxy-4-methoxyphenyl)-5,6-dihydro-4H-pyridazin-1-yl]-1-(4-methyl-2-pyridin-2-ylthiazol-5-yl)methanone | 1.5 g | C(C)OC=1C=C(C=CC1OC)C1=NN(CCC1)C(=O)C1=C(N=C(S1)C1=NC=CC=C1)C | C23H24N4O3S
